US08426408B2
4-nitro-1-phenyl-1H-pyrazole
4-Nitro-1H-pyrazole (1 g, 8.84 mmol), phenylboronic acid (2.223 g, 17.69 mmol), copper (II) acetate (2.409 g, 13.27 mmol) and pyridine (2.86 ml, 35.4 mmol) were combined in dichloromethane (40 ml) and the mixture stirred at ambient temperature open to the air with a drying tube. The mixture was filtered through a diatomaceous earth pad washing with dichloromethane; and the filtrate washed with water and brine, dried over MgSO4, filtered and concentrated to give the title compound.

reactant | 4-Nitro-1H-pyrazole | 8.84 mmol, 1 g | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | phenylboronic acid | 17.69 mmol, 2.223 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | pyridine | 35.4 mmol, 2.86 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
catalyst | copper (II) acetate | 13.27 mmol, 2.409 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 4-nitro-1-phenyl-1H-pyrazole | [N+](=O)([O-])C=1C=NN(C1)C1=CC=CC=C1 | C9H7N3O2
